US07855294B2
1) Methyl 4-methylnicotinate
In a nitrogen atmosphere, 6.89 g of potassium carbonate and 4.6 mL of methyl iodide were added in that order to N,N-dimethylformamide (100 mL) solution of 6.86 g of 4-methylnicotinic acid, and stirred at room temperature for 3 hours. The solvent was evaporated off under reduced pressure, then aqueous sodium hydrogencarbonate solution was added to the residue and extracted with chloroform. The chloroform layer was washed with saturated saline water, and dried with anhydrous sodium sulfate. The solvent was evaporated off under reduced pressure, and the residue was separated and purified through silica gel column chromatography (hexane/ethyl acetate=50/50) to obtain 2.52 g of the entitled compound as a yellow oily substance.

reactant | potassium carbonate | 6.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 4.6 mL | CI | CH3I
reactant | 4-methylnicotinic acid | 6.86 g | CC1=CC=NC=C1C(=O)O | C7H7NO2
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | Methyl 4-methylnicotinate | 2.52 g | CC1=CC=NC=C1C(=O)OC | C8H9NO2
